Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
morphine / Codeine
 
Attending: ___.
 
Chief Complaint:
Shortness of breath
 
Major Surgical or Invasive Procedure:
Cardiac catheterization with stenting to right coronary artery, 
left descending artery, and circumflex artery.  

 
History of Present Illness:
Patient is a ___ yo woman w/ a hx of CKD, afib on coumadin, 
aortic stenosis, HTN, DM, hyperlipidemia, PVD who initially 
presented to ___ on ___ with cough and 
shortness of breath.  
.  
Patient initially developed cough productive of white sputum on 
___. She presented to her primary care doctor's office on ___ 
where a chest x-ray was performed and out of concern for 
pneumonia she was given a Z-pack. She initially felt better, but 
by ___ again feeling short of breath at rest without exertion. 
She denied any chest pain or palpitations at that time, but was 
experiencing significant diaphoresis.  
.  
Patient was admitted to ___ on ___ where an 
admission CXR was concerning for CHF with lung infiltrates and 
pulmonary edema. troponin was elevated to 0.34 and a BNP was 
29,000. 3 sets of cardiac biomarkers were drawn the the 
following trend:  
-CPK 190, Trop 0.34  
-CPK 239, Trop 0.54  
-CPK 109, Trop 0.68  
She was also noted to have a supratherapeutic INR of 10.7. She 
was given vitamin K for reversal and actively diuresed in 
addition to holding home HCTZ and losartan. Admission weight 
67.3 kg transfer weight 63.3 kg. Repeat CXR on ___ showed 
improvement in bilateral lower lobe infiltrates and mild 
residual disease. Though was noted to have bibasilar crackles 
and desaturations to 87% on room air requiring 2L NC.  
.  
Admission Creatinine was 2.1 which improved with diuresis to 1.7 
with a BUN of 61 on transfer.  
.  
Admission blood cultures were also notable for s. epidermidis 
and s. warneri felt to be contaminants. Patient did not receive 
abx through out her stay at ___.  
.  
EHCO showed EF 60%, moderate to severe AS, ___ ___ sq cm, no 
wall motion abnormalities. Mild MR, mild TR.  
.  
She is transferred to ___ for evaluation for Cath procedure.  
.  
REVIEW OF SYSTEMS:  
On review of systems, s/he denies deep venous thrombosis, 
pulmonary embolism, bleeding at the time of surgery, myalgias, 
joint pains, hemoptysis, black stools or red stools. S/he denies 
recent fevers, chills or rigors. S/he denies exertional buttock 
or calf pain. All of the other review of systems were negative.  

.  
Cardiac review of systems is notable for absence of chest pain, 
paroxysmal nocturnal dyspnea, orthopnea, ankle edema, 
palpitations, syncope or presyncope.  

 
Past Medical History:
PAST MEDICAL HISTORY:  
1. CARDIAC RISK FACTORS: Diabetes, Dyslipidemia, Hypertension  
2. CARDIAC HISTORY:  
- Aortic stenosis  
- Atrial fibrillation  
- CABG:  
- PERCUTANEOUS CORONARY INTERVENTIONS:  
- PACING/ICD:  
3. OTHER PAST MEDICAL HISTORY:  
-CKD with baseline creatinine of 1.7  
-pulmonary HTN  
-dermatochalasis  
-diabetes  
-postmenopasual bleeding  
-uterine prolapse  
-microalbuminuria  
-hyperlipidemia  
-hypertension  
-peripherial vascular disease  
-venous insufficiency  
-hypothyroidism  
-osteoperosis  
-cholelithiasis  
-hx of CVA ___ residual R weakness and word finding 
difficulties  
-afib on coumadin  
-PUD w/ bleed ___ and ___.  

 
Social History:
___
Family History:
-brother died from "heart disease" at ___  
-father MI at ___  
-paternal grandmother had MI at ___  

 
Physical Exam:
ADMISSION EXAM:
VS: T 97.8, BP 137/57, HR 64, RR 20, SpO2 94% 2L  
___: NAD. Oriented x3. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.  

NECK: Supple with JVP of 5 cm.  
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, unable to hear S2 with ___ 
cresendo-decresendo murmur throughout precordium radiating to 
the carotids, slight delay in the carotid upstroke.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB, no crackles, 
wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not 
enlarged by palpation. No abdominial bruits.  
EXTREMITIES: No c/c/e. No femoral bruits.  
NEURO: CN II-XII tested and intact, strength ___ throughout, 
sensation grossly normal. Gait not tested.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES:  
Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  
Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  

DISCHARGE EXAM:
VS: T 98.1, BP 149/59, HR 79, RR 20, 93% RA.  
24hr I/O: 1200/___ (net -875)  
8hr I/O: ___  
Wt: 65.1kg-> 64.9 -> 64 -> 64.5 -> 67.1 ->66.0 -> 65.3  
___: NAD. Oriented x3. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI.  
NECK: Supple, low JVP.  
CARDIAC: RR, normal S1, unable to hear S2 with ___ 
cresendo-decresendo murmur throughout precordium radiating to 
the carotids, slight delay in the carotid upstroke.  
LUNGS: CTAB, no crackles  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: Warm, well perfused, +2 pitting edema to ___ up 
calves. DP 2+, ___ 2+  
Right Groin with small hematoma (4cm) and moderate supralabial 
erythema on the right. No significant change. Femoral bruit 
noted bilaterally, symmetric.  
NEURO: CN II-XII tested and intact, strength ___ throughout, 
sensation grossly normal. Gait not tested.  

 
Pertinent Results:
ADMISSION LABS:
___ 04:20PM BLOOD WBC-7.3 RBC-4.18* Hgb-12.3 Hct-38.4 
MCV-92 MCH-29.5 MCHC-32.2 RDW-13.5 Plt ___
___ 04:20PM BLOOD ___ PTT-33.8 ___
___ 04:20PM BLOOD Glucose-122* UreaN-57* Creat-1.6* Na-140 
K-4.3 Cl-98 HCO3-35* AnGap-11
___ 01:50PM BLOOD ALT-22 AST-19 CK(CPK)-31 AlkPhos-72 
Amylase-83 TotBili-0.5 DirBili-0.2 IndBili-0.3
___ 06:38AM BLOOD CK-MB-2 cTropnT-0.04*
___ 06:24AM BLOOD proBNP-5702*
___ 04:20PM BLOOD Calcium-9.4 Phos-2.9 Mg-1.8
___ 06:38AM BLOOD Calcium-9.5 Phos-4.2 Mg-1.9 Cholest-144

INTERIM LABS:
___ 09:21PM BLOOD CK-MB-3
___ 06:33AM BLOOD CK-MB-7

___ 07:20AM BLOOD Glucose-110* UreaN-50* Creat-2.0* Na-141 
K-5.2* Cl-103 HCO3-32 AnGap-11
___ 07:13AM BLOOD Glucose-110* UreaN-41* Creat-1.6* Na-143 
K-4.7 Cl-105 HCO3-30 AnGap-13
___ 06:24AM BLOOD Glucose-93 UreaN-37* Creat-1.8* Na-145 
K-4.6 Cl-105 HCO3-31 AnGap-14
___ 09:21PM BLOOD Na-138 K-4.4 Cl-102
___ 06:33AM BLOOD Glucose-84 UreaN-31* Creat-1.6* Na-141 
K-4.6 Cl-103 HCO3-31 AnGap-12
___ 06:29AM BLOOD Glucose-86 UreaN-41* Creat-2.9*# Na-137 
K-4.7 Cl-99 HCO3-29 AnGap-14
___ 05:35PM BLOOD Creat-3.2* Na-129* K-3.9 Cl-93*
___ 05:30AM BLOOD Glucose-100 UreaN-47* Creat-3.3* Na-131* 
K-3.9 Cl-93* HCO3-25 AnGap-17
___ 05:30AM BLOOD Glucose-97 UreaN-43* Creat-2.9* Na-132* 
K-4.0 Cl-94* HCO3-27 AnGap-15
___ 06:24AM BLOOD ALT-27 AST-32 AlkPhos-72 TotBili-0.5
___ 06:38AM BLOOD CK-MB-2 cTropnT-0.04*
___ 09:21PM BLOOD CK-MB-3
___ 06:33AM BLOOD CK-MB-7
___ 01:50PM BLOOD VitB12-1784*
___ 01:50PM BLOOD %HbA1c-6.0* eAG-126*
___ 06:38AM BLOOD %HbA1c-6.0* eAG-126*
___ 06:38AM BLOOD Triglyc-75 HDL-33 CHOL/HD-4.4 LDLcalc-96
___ 06:38AM BLOOD TSH-1.7

DISCHARGE LABS:
___ 04:55AM BLOOD WBC-4.9 RBC-3.34* Hgb-9.8* Hct-30.2* 
MCV-91 MCH-29.3 MCHC-32.4 RDW-15.7* Plt ___
___ 04:55AM BLOOD ___ PTT-38.7* ___
___ 04:55AM BLOOD Glucose-94 UreaN-40* Creat-2.4* Na-134 
K-3.4 Cl-97 HCO3-27 AnGap-13
___ 04:55AM BLOOD Calcium-8.6 Phos-4.0 Mg-1.9
EKG ___
Sinus rhythm. Baseline artifact. Minor lateral T wave 
abnormality. No 
previous tracing available for comparison.  
  Intervals Axes 
Rate PR QRS QT/QTc P QRS T 
64 188 98 426/433 16 12 68 

CXR ___
Lateral view suggests aortic valvular calcification which could 
be responsible for stenosis.  It also shows small bilateral 
pleural effusion, and increase in the AP diameter beyond what 
one would attribute to senile kyphosis.  This raises the 
possibility of obstructive airways disease. 
  
Small band of atelectasis crossed the right lower lung.  A small 
region of 
irregular opacification at the lateral periphery of the right 
upper lobe just above the minor fissure could be scarring or 
even sclerosis in the overlying scapular tip.  Heart size is 
normal.  There is no evidence of central adenopathy. 

Cardiac Cath ___
1. Selective angiography of this right-dominant system 
demonstrated
severe 3 vessel disease.  The ___ had no angiographically 
apparent
disease.  The LAD had 70% proximal stenosis that involves the 
takeoff of
the proximal D1.  The LCX had 70-80% mid-vessel stenosis and a 
large
distal bifurcating normal OM branch.  The RCA had 70-80% 
mid-vessel
stenosis.
2. Left heart catheterization revealed moderately severe 
calcific aortic
stenosis with a peak gradient of of 45 mmHg.
3. Limited resting hemodynamics using the Fick method and 
assumed oxygen
consumption revealed normal cardiac output/index of 5.16/3.11, 
normal
right sided filling pressure, slightly elevated pulmonary artery
systolic pressure, normal pulmonary capillary wedge pressure, 
normal
left sided filling pressure, and moderate systemic hypertension.

Cardiac Cath ___
1. Selective coronary angiography in this right dominant system
demonstrated three vessel disease. The ___ had no 
angiographically
apparent disease. The LAD had a 70-80% stenosis at the ostium of 
D1,
which itself had a 70% ostial lesion. The Cx had an 80% mid 
vessel
stenosis with an 80% stenosis in OM2. The RCA had a mid vessel 
80%
stenosis.
2. Limited resting hemodynamics revealed a central aortic 
pressure of
158/52 mmHg.
3. Successful PTCA and stenting of the mid Cx with a 3.0x15mm 
RESOLUTE
stent. Final angiography revealed no residual stenosis, no
angiographically apparent dissection and TIMI III flow (see ___
comments).
4. Succesful PTCA and stenting of the mid LAD with a 3.0x12mm 
RESOLUTE a
residual 70% ostial D1 stenosis, no angiographically apparent 
dissection
and TIMI III flow (see ___ comments).
5. Successful PTCA and stenting of the RCA with a 2.5x14mm 
RESOLUTE
stent. Final angiography revealed no residual stenosis, no
angiographically apparent dissection and TIMI III flow (see ___
comments).
6. Unsuccessful closure of the right femoral arteriotomy site 
with a 6
___ EXOSEAL device. Manual pressure was then applied at the 
site of
the right femoral arteriotomy with good resultant hemostasis.

CT Chest ___
Extensive atherosclerotic vascular calcification involving the 
thoracic aorta
and its branches as well as three coronary arteries.  There is 
calcification
at the level of the aortic annulus, suggestive of aortic 
stenosis.
 
Centrilobular pulmonary emphysema.  Patchy regions of pulmonary 
opacities
which are scattered in the periphery of the lungs could be a 
sequela of
previous infection/inflammation or could represent sites of 
cryptogenic
organizing pneumonia.  Additional nodules in the lungs 
bilaterally, the
largest of which measures about 5 mm in size.  If clinically 
warranted, a
followup chest CT may be obtained in 6 to 12 months to assure 
stability/
resolution.
 
High-density in the renal cortices bilaterally could reflect 
contrast-induced
nephropathy.  Please correlate with history of recent 
administered contrast
and renal function tests.

ECHO ___
The left atrium is mildly dilated. There is moderate 
(non-obstructive) focal hypertrophy of the basal septum (1.6 cm) 
There is mild symmetric left ventricular hypertrophy. The left 
ventricular cavity size is normal. Overall regional and global 
left ventricular systolic function is normal (LVEF>55%). Right 
ventricular chamber size and free wall motion are normal. The 
aortic valve leaflets are severely thickened/deformed. There is 
severe aortic valve stenosis (valve area 0.8-1.0cm2). No aortic 
regurgitation is seen. The mitral valve leaflets are mildly 
thickened. There is no mitral valve prolapse. Mild (1+) mitral 
regurgitation is seen. The tricuspid valve leaflets are mildly 
thickened. The tricuspid regurgitation jet is eccentric and may 
be underestimated. There is moderate pulmonary artery systolic 
hypertension. There is no pericardial effusion.

IMPRESSION: Suboptimal image quality. Severe aortic stenosis. 
Mild symmetric left ventricular hypertrophy with moderate focal 
basal septal hypertrophy and preserved biventricular 
regional/global systolic function. Mild mitral regurgitation. 
Mild to moderate tricuspid regurgitation.

___ Right groin u/s
At the site of recent arterial puncture, there is a hematoma 
measuring 4.2 x 1.6 x 1.3 cm.  Additionally, there is a small 
pseudoaneurysm (less than 1 cm) with a ___rising from 
the right common femoral artery.  Flow is visualized within the 
common femoral artery and vein.

 
Brief Hospital Course:
___ yo woman w/ multiple coronary risk factors, afib, AS and CKD 
presenting as a OSH transfer with new congestive heart failure 
and severe aortic stenosis.  Cardiac cath and stent placement to 
LAD, RCA, CXA on ___, with course complicated by contrast 
induced nephropathy (___) and small stable pseudoaneurysm. 

Active Diagnoses:
#Acute on chronic diastolic heart failure:  Pt with prior EF 65% 
presented initially to OSH chest-pain free, with worsening SOB, 
clinical signs of fluid overload and CXR with pulmonary edema 
consistent with acute CHF.  Troponins and BNP were elevated.  
EKG with nonspecific T wave changes.  Pt started on statin, ASA 
and LasiX IV bolus diuresis.  Diagnostic cath revealed 3VD, but 
she was not a surgical candidate for CABG.  On ___, PCI with 
DES to RCA, LAD, and LCX.  ECHO showed preserved EF with severe 
aortic stenosis suggesting demand ischemia may have triggered 
the acute CHF.  After achieving euvolemia, her course was 
complicated by contrast-induced nephropathy which required 
fluids/PRBC that resulted in a second episode of fluid overload 
and subsequent diuresis which she tolerated well.  Pt was 
discharged at a dry weight of 64.5kg which is 142.2 lbs.  Her 
home dose of lasix was increased on discharge.
.
#Coronary Artery Disease: Pt presented with chest-pain free SOB, 
positive trops and EKG with non-specific T wave changes 
suggestive of NSTEMI vs demand ischemia. Pt placed on heparin 
gtt. Diagnostic cath showed 3 vessel disease, but she was not a 
candidate for CABG due to heavily calcified aorta.  On ___ PCI 
of ___. Pt started on Aspirin and Plavix.
.
# Aortic Stenosis: In the setting of acute diastolic HF, pt 
found to have tight AS with ___ 0.9 cm2 and high restrictive 
indicies. She was not a candidate for AVR given calcification of 
her aorta.  However, she is currently being evaluated by  Dr. 
___ the possibility of future aortic valvuloplasty or 
percutaneous valve replacement as part of the ___ trial.  
She is scheduled to follow up with Dr. ___ as an outpatient.  
.
# Chronic Atrial Fibrillation:  Pt presented in sinus rhythm, 
but with history of  afib on coumadin (CHADS score=6).  Her BB 
was changed from Atenolol to Metoprolol daily.  On admission she 
had a supratherapeutic INR requiring Vitamin K.  She was 
restarted on Coumadin after the ___ cath without bridging, and 
discharged with a therapeutic INR (___).  Dr. ___ PCP, 
___ continue to follow INRs on an outpatient basis.

# Contrast-Induced Nephropathy ___ on CKD): Pt with baseline  
Cr of 1.6-7.  After second cardiac cath, blood work revealed 
___, with a Cr from 1.6 to 3.3.  Likely secondary to contrast 
induced nephropathy.  Cr downtrended after receiving 1unit PRBC 
and gentle hydration. She continued to have adequate urine 
output.  She was discharged with Cr 2.4.  Her Losartan was held 
in light of this ___. Changed her Atenolol to Metoprolol given 
her renal dysfunction. The plan is for PCP/Cardiology to 
consider restarting losartan if her Creatinine returns to her 
baseline of 1.6-7.  
.
#RCFA pseudoaneurysm:  Cardiac cath with right common femoral 
artery access complicated by failure of EXOSEAL to deploy 
correctly.  Pt was found to have a hematoma with pseudoaneurysm 
(8mm) that remained stable for the remainder of the hospital 
course.  Her hematocrit was slightly downtrending.  Possibly 
suggestive of numerous blood draws, rather than frank anemia.  
Will be re-imaged (US) and reevaluated in ___ weeks. This is to 
be arranged by her PCP or ___.
.
# Lung nodules: Incidental finding on CT chest.  Requires CT 
follow-up in 6 - 12 months if clinically indicated.
.  
Chronic Diagnoses:
# DM:  Pt's sugars were loosely controlled in the hospital with 
BS into the 300s at night likely representative of stress 
response to cardiac cath x2.  Her glipizide was held given the 
multiple caths and subsequent ___.  She was controlled on a 
loose SSI.  Requires close PCP monitoring of ___ on an 
outpatient basis.  Patient counseled on need to follow BS 
closely on discharge.  
.
# HTN: Stable, SBPs to 140s. Continued amlodipine 10 mg. 
Administered clonodine as po rather than her home patch.  Pt to 
place patch the morning after discharge. Changed Atenolol to 
Metoprolol because of atenolol's renal clearance. Held losartan 
in light ___ on CKD.  PCP/Cardiology can restart the losartan 
if Cr resolves to her baseline (1.6-7).
.
# HL: Stable, Switched to atorvastatin given FDA warning of 
Amlodipine and simvastatin.
.
# Gout:  Stable, continued allopurinol.
.
# Hypothyroid: Stable, continued levothyroxine.
.
# Glaucoma:  Stable, continued timolol.
.

TRANSITIONAL ISSUES:
-5 mm apical lung nodules seen on CT chest, f/u w/ repeat CT in 
___ months if clinically indicated.
-Pt found to have elevated BS to the 300s during this admission 
in the setting of holding her oral meds.  Likely due to stress 
response related to cardiac catheterization.  Will restart oral 
meds on discharge and close monitoring of BS by PCP.
-Pt was discharged at a dry weight of 64.5kg, 142.2 lbs.
-Needs repeat US of right groin pseudoaneurysm at the end of ___.
-Cardiology/PCP to follow up on Hct and Cr.
-Cardiology/PCP to restart ___ if Cr returns to baseline.
-Pt should continue Metoprolol and discontinue Atenolol.
-Dr. ___ to manage INRs as he did before hospitalization.
-Code Status: FULL CODE
 
Medications on Admission:
Preadmission medications listed are correct and complete.  
Information was obtained from Patient transfer documents.
1. GlipiZIDE XL 5 mg PO DAILY 
2. Atenolol 100 mg PO DAILY 
3. Multivitamins 1 TAB PO DAILY 
4. Calcium Carbonate 500 mg PO TID 
5. Simvastatin 40 mg PO DAILY 
6. Allopurinol ___ mg PO DAILY 
7. Levothyroxine Sodium 75 mcg PO DAILY 
8. Warfarin 2 mg PO DAILY16 
9. Amlodipine 10 mg PO DAILY 
10. losartan-hydrochlorothiazide *NF* 100-25 mg Oral daily 
11. Furosemide 20 mg PO DAILY 
12. Clonidine Patch 0.3 mg/24 hr 1 PTCH TD Frequency is Unknown 
13. Vitamin D 1000 UNIT PO DAILY 
14. Potassium Chloride 10 mEq PO DAILY Duration: 24 Hours 
Hold for K > 
15. Timolol Maleate 0.5% 1 DROP RIGHT EYE BID 

 
Discharge Medications:
1. Allopurinol ___ mg PO DAILY 
2. Amlodipine 10 mg PO DAILY 
3. Calcium Carbonate 500 mg PO TID 
4. Levothyroxine Sodium 75 mcg PO DAILY 
5. Multivitamins 1 TAB PO DAILY 
6. Timolol Maleate 0.5% 1 DROP RIGHT EYE BID 
7. Vitamin D 1000 UNIT PO DAILY 
8. Warfarin 2 mg PO DAILY16 
9. Clonidine Patch 0.3 mg/24 hr 1 PTCH TD QTUES 
RX *clonidine 0.3 mg/24 hour Apply the patch to the skin on the 
upper outer arm or chest every 7 days. Do not use on broken or 
irritated skin. After 7 days, remove it and apply a new patch to 
a different area to avoid skin irritation Place new patch every 
___ Disp #*4 Transdermal Patch Refills:*3
10. Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*3
11. Atorvastatin 80 mg PO DAILY 
RX *atorvastatin 80 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*3
12. Aspirin 81 mg PO DAILY 
RX *Adult Low Dose Aspirin 81 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*3
13. GlipiZIDE XL 5 mg PO DAILY 
14. Outpatient Lab Work
INR check on ___ with results faxed to Dr. ___ at 
___ and Dr. ___ at ___.  ICD-9 427.31 
15. Furosemide 40 mg PO DAILY 
RX *furosemide 40 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*3
16. Potassium Chloride 20 mEq PO DAILY Duration: 24 Hours 
Hold for K >5 
RX *potassium chloride 10 mEq 2 tablets by mouth daily Disp #*60 
Tablet Refills:*3
17. Metoprolol Succinate XL 100 mg PO DAILY 
RX *metoprolol succinate 100 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*3
18. Outpatient Physical Therapy
19. Outpatient Lab Work
CBC and Chem-7 on ___ to be faxed to Dr. ___ at 
___ and Dr. ___ at ___.
ICD-9: ___

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Acute on chronic diastolic heart failure
Acute kidney injury on chronic kidney disease
Coronary artery disease
Critical Aortic Stenosis 
Hypertension
Diabetes Mellitus

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was a pleasure taking care of you while you were admitted to 
___. You were treated with IV medications for your heart 
failure and you tolerated this well.  You also had cardiac 
catheterization with stents placed in 3 different coronary 
arteries.  Your hospital course was lengthened by an acute kidey 
injury likely caused by the dye used during your cardiac 
catheterization.  You received one unit of blood along with some 
fluid to help restore your kidney function. Your kidney function 
is returning to baseline.  You were diagnosed with critical 
aortic stenosis and evaluated by our surgeons, but were not a 
surgical candidate.  You will be followed in clinic by Dr. ___ 
to determine if you can have a less invasive valve replacement 
in the future, an appoint has been scheduled for you.

Please have Dr. ___ a repeat ultrasound of your 
right groin in ___ months.  If your right groin is painful or 
changes appearance, please call Dr. ___.

At the hospital your ideal dry weight was 64.5kg which is 142.2 
lbs.  It is important that you weigh yourself every day.  If 
your weight increases by 3 lbs, please call your Dr. ___ Dr. 
___.
 
Followup Instructions:
___